US08114867B2
79.i. 3-fluoro-6-methoxy-quinoline-4-carbaldehyde
To a solution of DIPA (15.5 mL) in THF (300 mL), cooled to −78° C., was added n-BuLi (2.35N in hexanes, 44 mL). The reaction mixture was stirred 5 min at this temperature before warming to 0° C. The reaction mixture was stirred 15 min before cooling to −78° C. 3-fluoro-6-methoxy-quinoline (15 g, 84.7 mmol; see WO 2006/058700) in THF (50 mL+10 mL rinse) was added and the mixture was stirred 3 h at −78° C. DMF (3 mL, 1.2 eq.) was added quickly (within one min). After 45 min, the reaction mixture was quenched by adding 1-propanol (8 mL). The mixture was warmed to rt and extracted twice with EA. The combined org. layers were washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue triturated in Hept to give the title intermediate as an orange solid (9.0 g, 52% yield).

reactant | n-BuLi | 2.35N, 44 mL | [Li]CCCC
reactant | 3-fluoro-6-methoxy-quinoline | 84.7 mmol, 15 g | FC=1C=NC2=CC=C(C=C2C1)OC | C10H8FNO
reactant | DMF | 3 mL, 1.2 eq. | CN(C)C=O | C3H7NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-fluoro-6-methoxy-quinoline-4-carbaldehyde | 9.0 g, 52% yield | FC=1C=NC2=CC=C(C=C2C1C=O)OC | C11H8FNO2
